US08207164B2
h) [5-(3-Bromo-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester
A mixture of 5-(3-bromo-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine (4.73 g, 15 mmol) and dichloromethane was cooled to 0° C., treated with (Boc)2O (4.26 g, 19.5 mmol) and DIPEA (2.91 g, 22.5 mmol) and stirred for 17 h at room temperature. 300 ml of water were added dropwise, the phases were separated, the aqueous phase was extracted twice with dichloromethane, and the combined organic phases were washed with 1M aqueous HCl solution and water, dried with Na2SO4 and evaporated under reduced pressure to yield the title compound. 1H-NMR (500 MHz, DMSO-d6): 9.58 (br, 1H), 7.62 (s, 1H), 7.40-7.25 (m, 3H), 4.50-4.30 (m, 2H), 3.75-3.35 (m, 2H), 1.45 (s, 3H), 1.41 (s, 9H); MS: 369, 371 [M+H)+].

reactant | 5-(3-bromo-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-ylamine | 15 mmol, 4.73 g | BrC=1C=C(C=CC1)C1(N=C(COC1)N)C | C11H13BrN2O
reactant | dichloromethane | ClCCl | CH2Cl2
reactant | (Boc)2O | 19.5 mmol, 4.26 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | DIPEA | 22.5 mmol, 2.91 g | CCN(C(C)C)C(C)C | C8H19N
solvent | water | 300 ml | O | H2O
product | [5-(3-Bromo-phenyl)-5-methyl-5,6-dihydro-2H-[1,4]oxazin-3-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC=1COCC(N1)(C)C1=CC(=CC=C1)Br)=O | C16H21BrN2O3
